*  HA-5127
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
*  HA-5127 MacroModel
*  Rev: 02-04-92  DW Riemer
*
* Connections:
*               Non-Inverting Input
*               | Inverting Input
*               | | Positive Power Supply
*               | | | Negative Power Supply
*               | | | | Output
*               | | | | |
.SUBCKT HA5127  1 2 4 5 3
.MODEL DP D  IS=1E-14  N=6.6967E-01
.MODEL DN D  IS=8.5E-15    N=6.6967E-01
.MODEL DV D  IS=1.1746E-14  N=.2
.MODEL D1 D  IS=1E-9  N=1
.MODEL D2 D  IS=1E-9  N=1.0
.MODEL DX D  IS=1E-20  N=30.0
*
*                     Input Stage
*  Value of source VN models Vio and may be adjusted as desired.
*
VP 1 6 0
VN 2 7 1.0E-05
I1 8 0 1.295E-08
FA 2 0 VN 1.857E+00
DP 6 8 DP
DN 7 8 DN
C1 8 0 1.9425E-16     IC=-2.3157E-01
FP 9 0 VP  1.6988E+04
FN 0 9 VN  1.9986E+04
GC 0 9 8 0 6.8734E-09
GPP 9 0 4 0 1.2291E-08
GPN 9 0 5 0 1.2291E-08
IRX 0 9 1.5917E-09
RT 9 0 1.0
*
*                 Poles and Zeros
EP1 10 0 9 0 1.0
RP1 10 11 1.2736E+03
RZ1 11 12 3.184E+02
CP1 12 0 1E-10
EP2 13 0 11 0 1.0
RP2 13 14 2.388E+01
RZ2 14 15 +7.96
CP2 15 0 1E-10
EP3 16 0 14 0 1.0
RP3 16 17 1.0613E+01
CP3 17 0 1E-10
EP4 18 0 17 0 1.0
RP4 18 19 +3.184
CP4 19 0 1E-10
*
*                 Output Stage
G2 0 20 19 0 1.0
R2 20 0 6.5577E+02
CC 20 21 2.2E-11
GOL 21 0 20 0 6.5137E+03
RD 21 0 5.0809E+01
DH 21 22 DV
DL 23 21 DV
*ECC 22 0 POLY 1  4 0 -2.7  1.0
BECC 22 0 V=-2.7+1.0*v(4,0)
*EEE 23 0 POLY 1  5 0 +2.7  1.0
BEEE 23 0 V=2.7+1.0*v(5,0)
IH 4 0 3.5E-03
IL 0 5 3.5E-03
GPS 24 0 21 3 8.5427E-02
DPH 4 24 DX
DPL 24 5 DX
D1 21 25 D1
D2 25 21 D2
*EX1 25 0 POLY 2  21 0 3 0 0.0   -7.2888E-01   +1.7248
BEX1 25 0 V=-7.2888E-01*v(21,0)+1.7248*v(3,0)
RO 21 3 1.17059E+01
.ENDS HA5127