*  HA-5221
*  COPYRIGHT (C) 1991 HARRIS CORPORATION
*  ALL RIGHTS RESERVED
*
*  HA-5221 MacroModel
*  Rev: 4-22-91  DW Riemer
*
* Connections:
*               Non-Inverting Input
*               | Inverting Input
*               | | Positive Power Supply
*               | | | Negative Power Supply
*               | | | | Output
*               | | | | |
.SUBCKT HA5221  1 2 4 5 3
.MODEL DP D  IS=1E-14  N=1.0378
.MODEL DN D  IS=8.5539E-15    N=1.0378
.MODEL DV D  IS=5.0027E-14  N=.2
.MODEL D1 D  IS=1E-9  N=1
.MODEL D2 D  IS=1E-9  N=1.0
.MODEL DX D  IS=1E-20  N=30.0
*
*                       Input Stage
*  Value of source VN models VIO and may be adjusted as desired.
*
VP 1 6 0
VN 2 7 3.0E-04
I1 8 0 6.0300E-08
FA 2 0 VN 7.0862E-01
DP 6 8 DP
DN 7 8 DN
C1 8 0 2.4249E-16     IC=-3.9979E-01
FP 9 0 VP  1.3609E+04
FN 0 9 VN  1.5909E+04
GC 0 9 8 0 5.2426E-07
GPP 9 0 4 0 4.6750E-07
GPN 9 0 5 0 5.2455E-07
IRX 0 9 -6.4606E-07
RT 9 0 1.0
*
*                Poles and Zeros
EP1 10 0 9 0 1.0
RP1 10 11 8.4769E+02
RZ1 11 12 2.8945E+02
CP1 12 0 1E-10
EP2 13 0 11 0 1.0
RP2 13 14 -2.1985E+01
RZ2 14 15 3.7905E+01
CP2 15 0 1E-10
EP3 16 0 14 0 1.0
RP3 16 17 1.0613E+01
CP3 17 0 1E-10
EP4 18 0 17 0 1.0
RP4 18 19 +9.0971
CP4 19 0 1E-10
EP5 20 0 19 0 1.0
RP5 20 21 +8.3789
CP5 21 0 1E-10
EP6 22 0 21 0 1.0
RP6 22 23 +7.96
CP6 23 0 1E-10
*
*              Output Stage
G2 0 24 23 0 1.0
R2 24 0 6.5577E+02
CC 24 25 2.2E-11
GOL 25 0 24 0 7.4372E+03
RD 25 0 5.0809E+01
DH 25 26 DV
DL 27 25 DV
*ECC 26 0 POLY 1  4 0 -2.5544  1.0
BECC 26 0 V=-2.5544+1.0*v(4,0)
*EEE 27 0 POLY 1  5 0 +2.3854  1.0
BEEE 27 0 V=2.3854+1.0*v(5,0)
IH 4 0 9.0E-03
IL 0 5 9.0E-03
GPS 28 0 25 3 8.5427E-02
DPH 4 28 DX
DPL 28 5 DX
D1 25 29 D1
D2 29 25 D2
*EX1 29 0 POLY 2  25 0 3 0 0.0   3.6309E-01   6.3542E-01
BEX1 29 0 V=3.6309E-01*v(25,0)+6.3542E-01*v(3,0)
RO 25 3 1.1706E+01
.ENDS HA5221