*  
* Diode Model Produced by Altium Ltd  
* Date:  6-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSM-552E  
*  
* Parameters derived from information available in data sheet.  
*  
*                 a(5&7)/CLEAN1
*                 |  b(5&7)/CLEAN2
*                 |  |  c(5&7)/BAKE1
*                 |  |  |  d(5&7)/BAKE2
*                 |  |  |  |  e(5&7)/ON
*                 |  |  |  |  |  f(5&7)/-
*                 |  |  |  |  |  |  g(5&7)/-
*                 |  |  |  |  |  |  |  a6/PROBE1/-
*                 |  |  |  |  |  |  |  |  b6/PROBE2/-
*                 |  |  |  |  |  |  |  |  |  c6/DELAY1/-
*                 |  |  |  |  |  |  |  |  |  |  d6/DELAY2/-
*                 |  |  |  |  |  |  |  |  |  |  |  e6/BROIL1/-
*                 |  |  |  |  |  |  |  |  |  |  |  |  f6/BROIL2/-
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  g6/CONV1/-
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  SET1/CONV2/-
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  SET2/O/-
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  K1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  K2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  K3 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  | 
.SUBCKT HDSM_552E 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18 19

D1   1 19 dHDSM_552E
D2   1 18 dHDSM_552E
D3   1 17 dHDSM_552E

D4   2 19 dHDSM_552E
D5   2 18 dHDSM_552E
D6   2 17 dHDSM_552E

D7   3 19 dHDSM_552E
D8   3 18 dHDSM_552E
D9   3 17 dHDSM_552E

D10  4 19 dHDSM_552E
D11  4 18 dHDSM_552E
D12  4 17 dHDSM_552E

D13  5 19 dHDSM_552E
D14  5 18 dHDSM_552E
D15  5 17 dHDSM_552E

D16  6 19 dHDSM_552E
D17  6 18 dHDSM_552E

D18  7 19 dHDSM_552E
D19  7 18 dHDSM_552E

D20  8 19 dHDSM_552E
D21  8 18 dHDSM_552E

D22  9 19 dHDSM_552E
D23  9 18 dHDSM_552E

D24 10 19 dHDSM_552E
D25 10 18 dHDSM_552E

D26 11 19 dHDSM_552E
D27 11 18 dHDSM_552E

D28 12 19 dHDSM_552E
D29 12 18 dHDSM_552E

D30 13 19 dHDSM_552E
D31 13 18 dHDSM_552E

D32 14 19 dHDSM_552E
D33 14 18 dHDSM_552E

D34 15 19 dHDSM_552E
D35 15 18 dHDSM_552E

D36 16 19 dHDSM_552E
D37 16 18 dHDSM_552E

.MODEL dHDSM_552E D
+ (  
+     IS = 1.90184053E-20 
+      N = 1.70867152 
+     RS = 10.06223730 
+     BV = 4.8
+    IBV = 100u 
+ )  

.ENDS HDSM_552E