*  
* Diode Model Produced by Altium Ltd  
* Date:  11-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSM-450G  
*  
* Parameters derived from information available in data sheet.  
*  
*
*                 A1
*                 |  e/HRS1
*                 |  |  c/MINS1
*                 |  |  |  d/MINS2
*                 |  |  |  |  A2
*                 |  |  |  |  |  A
*                 |  |  |  |  |  |  g
*                 |  |  |  |  |  |  |  b/C
*                 |  |  |  |  |  |  |  |  a/F
*                 |  |  |  |  |  |  |  |  |  
*                 |  |  |  |  |  |  |  |  |  f/HRS2
*                 |  |  |  |  |  |  |  |  |  |
*                 |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSM_450G 1  2  3  4  5  7  8  11 12 15

D1  1 12 dHDSM_450G
D2  1 11 dHDSM_450G
D3  1  3 dHDSM_450G
D4  1  4 dHDSM_450G
D5  1  2 dHDSM_450G
D6  1 15 dHDSM_450G
D7  1  8 dHDSM_450G
D8  5 12 dHDSM_450G
D9  5 11 dHDSM_450G
D10 5  3 dHDSM_450G
D11 5  4 dHDSM_450G
D12 5  2 dHDSM_450G
D13 5 15 dHDSM_450G
D14 5  8 dHDSM_450G
D15 7 12 dHDSM_450G
D16 7 11 dHDSM_450G
D17 7  3 dHDSM_450G
D18 7  4 dHDSM_450G
D19 7  2 dHDSM_450G
D20 7 15 dHDSM_450G

.MODEL dHDSM_450G D
+ (  
+     IS = 6.02519230E-43 
+      N = 0.80350536 
+     RS = 9.92584724 
+     BV = 5.5
+    IBV = 100u 
+ )  

.ENDS HDSM_450G