*  
* Diode Model Produced by Altium Ltd  
* Date:  5-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSM-560G  
*  
* Parameters derived from information available in data sheet.  
*
*                 Cathode 1L
*                 |  Cathode 1P
*                 |  |  Cathode 1N
*                 |  |  |  Cathode 1O
*                 |  |  |  |  Cathode 1M
*                 |  |  |  |  |  Cathode 1E, 2E, 3E, 4E
*                 |  |  |  |  |  |  Cathode 1D, 2D, 3D, 4D
*                 |  |  |  |  |  |  |  Cathode 1C, 2C, 3C, 4C
*                 |  |  |  |  |  |  |  |  Cathode 1H, 2H, 3H, 4H
*                 |  |  |  |  |  |  |  |  |  Cathode 2G, 3G, 4G
*                 |  |  |  |  |  |  |  |  |  |  Common Anode DIG.4
*                 |  |  |  |  |  |  |  |  |  |  |  Cathode 1B, 2B, 3B, 4B
*                 |  |  |  |  |  |  |  |  |  |  |  |  Common Anode DIG.3
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  Cathode 1F, 2F, 3F, 4F
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  Common Anode DIG.2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  Cathode 1A, 2A, 3A, 4A
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  Common Anode DIG.1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  Cathode 1K
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  Cathode 1J, LC
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  Cathode 1I, UC
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSM_560G 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18 19 20

D1A 17 16 dHDSM_560G
D1B 17 12 dHDSM_560G
D1C 17  8 dHDSM_560G
D1D 17  7 dHDSM_560G
D1E 17  6 dHDSM_560G
D1F 17 14 dHDSM_560G
D1H 17  9 dHDSM_560G
D1I 17 20 dHDSM_560G
D1J 17 19 dHDSM_560G
D1K 17 18 dHDSM_560G
D1L 17  1 dHDSM_560G
D1M 17  5 dHDSM_560G
D1N 17  3 dHDSM_560G
D1O 17  4 dHDSM_560G
D1P 17  2 dHDSM_560G

D2A 15 16 dHDSM_560G
D2B 15 12 dHDSM_560G
D2C 15  8 dHDSM_560G
D2D 15  7 dHDSM_560G
D2E 15  6 dHDSM_560G
D2F 15 14 dHDSM_560G
D2G 15 10 dHDSM_560G
D2H 15  9 dHDSM_560G
DUC 15 20 dHDSM_560G
DLC 15 19 dHDSM_560G

D3A 13 16 dHDSM_560G
D3B 13 12 dHDSM_560G
D3C 13  8 dHDSM_560G
D3D 13  7 dHDSM_560G
D3E 13  6 dHDSM_560G
D3F 13 14 dHDSM_560G
D3G 13 10 dHDSM_560G
D3H 13  9 dHDSM_560G

D4A 11 16 dHDSM_560G
D4B 11 12 dHDSM_560G
D4C 11  8 dHDSM_560G
D4D 11  7 dHDSM_560G
D4E 11  6 dHDSM_560G
D4F 11 14 dHDSM_560G
D4G 11 10 dHDSM_560G
D4H 11  9 dHDSM_560G

.MODEL dHDSM_560G D
+ (  
+     IS = 1.14485573E-16 
+      N = 2.37171406 
+     RS = 9.65148982 
+     BV = 4.8
+    IBV = 100u 
+ )  

.ENDS HDSM_560G