*  
* Diode Model Produced by Altium Ltd  
* Date:  5-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSM-577G  
*  
* Parameters derived from information available in data sheet.  
*
*                  cathode-G
*                  |  cathode-DP
*                  |  |  cathode-A
*                  |  |  |  cathode-F
*                  |  |  |  |  common-anode-2
*                  |  |  |  |  |  cathode-D
*                  |  |  |  |  |  |  cathode-E
*                  |  |  |  |  |  |  |  cathode-C
*                  |  |  |  |  |  |  |  |  cathode-B
*                  |  |  |  |  |  |  |  |  |  common-anode-1
*                  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSM_577G  1  2  3  4  5  6  7  8  9  10


DA1  10  3 dHDSM_577G
DB1  10  9 dHDSM_577G
DC1  10  8 dHDSM_577G
DD1  10  6 dHDSM_577G
DE1  10  7 dHDSM_577G
DF1  10  4 dHDSM_577G
DG1  10  1 dHDSM_577G
DDP1 10  2 dHDSM_577G

DA2   5  3 dHDSM_577G
DB2   5  9 dHDSM_577G
DC2   5  8 dHDSM_577G
DD2   5  6 dHDSM_577G
DE2   5  7 dHDSM_577G
DF2   5  4 dHDSM_577G
DG2   5  1 dHDSM_577G
DDP2  5  2 dHDSM_577G

.MODEL dHDSM_577G D
+ (  
+     IS = 6.49372423E-16 
+      N = 2.50616209 
+     RS = 10.17361010 
+     BV = 4.8
+    IBV = 100u 
+ )  

.ENDS HDSM_577G