*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-3906  
*  
* Parameters derived from information available in data sheet.  
* 
*                 cathode-a 
*                 |  anode-d 
*                 |  |  cathode-d 
*                 |  |  |  cathode-c 
*                 |  |  |  |  cathode-e 
*                 |  |  |  |  |  anode-e 
*                 |  |  |  |  |  |  cathode-DP 
*                 |  |  |  |  |  |  |  anode-DP 
*                 |  |  |  |  |  |  |  |  cathode-DP 
*                 |  |  |  |  |  |  |  |  |  cathode-b 
*                 |  |  |  |  |  |  |  |  |  |  anode-b 
*                 |  |  |  |  |  |  |  |  |  |  |  anode-c 
*                 |  |  |  |  |  |  |  |  |  |  |  |  anode-a 
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_3906 2  3  4  5  6  7  8  10 11 12 13 14 15 17

DA1  15  2 dHDSP_3906
DA2  15 17 dHDSP_3906
DB   13 12 dHDSP_3906
DC   14  5 dHDSP_3906
DD    3  4 dHDSP_3906
DE    7  6 dHDSP_3906
DDP1 10  8 dHDSP_3906
DDP2 10 11 dHDSP_3906

.MODEL dHDSP_3906 D
+ (  
+     IS = 1E-13 
+      N = 2.7
+     RS = 6.22331865 
+     BV = 2.25
+    IBV = 100u 
+ )  

.ENDS HDSP_3906