*  
* Diode Model Produced by Altium Ltd  
* Date:  6-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-5508  
*  
* Parameters derived from information available in data sheet.  
*
*                 anode-c
*                 |  cathode-c, d
*                 |  |  anode-b
*                 |  |  |  cathode-a, b, DP
*                 |  |  |  |  anode-DP
*                 |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  cathode-a, b, DP
*                 |  |  |  |  |  |  |  cathode-c, d
*                 |  |  |  |  |  |  |  |  anode-d
*                 |  |  |  |  |  |  |  |  |  
.SUBCKT HDSP_5508 1  2  3  4  5  6  7  8  9

DA1   6  4 dHDSP_5508
DB1   3  4 dHDSP_5508
DDP1  5  4 dHDSP_5508

DA2   6  7 dHDSP_5508
DB2   3  7 dHDSP_5508
DDP2  5  7 dHDSP_5508

DC1   1  2 dHDSP_5508
DD1   9  2 dHDSP_5508

DC2   1  8 dHDSP_5508
DD2   9  8 dHDSP_5508

.MODEL dHDSP_5508 D
+ (  
+     IS = 3.78006861E-14 
+      N = 2.44553183 
+     RS = 19.51958310 
+     BV = 30
+    IBV = 100u 
+ )  

.ENDS HDSP_5508