*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-5537  
*  
* Parameters derived from information available in data sheet.  
* 
*                 cathode-c 
*                 |  anode-c,d
*                 |  |  cathode-b 
*                 |  |  |  anode-a,b, DP 
*                 |  |  |  |  cathode DP 
*                 |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  anode-a,b, DP  
*                 |  |  |  |  |  |  |  anode-c,d   
*                 |  |  |  |  |  |  |  |  cathode-d  
*                 |  |  |  |  |  |  |  |  |  
*                 |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_5537 1  2  3  4  5  6  7  8  9

DA1  4 6 dHDSP_5537
DA2  7 6 dHDSP_5537

DB1  4 3 dHDSP_5537
DB2  7 3 dHDSP_5537

DC1  2 1 dHDSP_5537
DC2  8 1 dHDSP_5537

DD1  2 9 dHDSP_5537
DD2  8 9 dHDSP_5537

DDP1 4 5 dHDSP_5537
DDP2 7 5 dHDSP_5537

.MODEL dHDSP_5537 D
+ (  
+     IS = 1E-13 
+      N = 2.7
+     RS = 6.22331865 
+     BV = 2.25
+    IBV = 100u 
+ )  

.ENDS HDSP_5537