*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-5538  
*  
* Parameters derived from information available in data sheet.  
* 
*                 anode-c 
*                 |  cathode-c,d
*                 |  |  anode-b 
*                 |  |  |  cathode-a,b, DP 
*                 |  |  |  |  anode DP 
*                 |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  cathode-a,b, DP  
*                 |  |  |  |  |  |  |  cathode-c,d   
*                 |  |  |  |  |  |  |  |  anode-d  
*                 |  |  |  |  |  |  |  |  |  
*                 |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_5538 1  2  3  4  5  6  7  8  9

DA1  6 4 dHDSP_5538
DA2  6 7 dHDSP_5538

DB1  3 4 dHDSP_5538
DB2  3 7 dHDSP_5538

DC1  1 2 dHDSP_5538
DC2  1 8 dHDSP_5538

DD1  9 2 dHDSP_5538
DD2  9 8 dHDSP_5538

DDP1 5 4 dHDSP_5538
DDP2 5 7 dHDSP_5538

.MODEL dHDSP_5538 D
+ (  
+     IS = 1E-13 
+      N = 2.7
+     RS = 6.22331865 
+     BV = 2.25
+    IBV = 100u 
+ )  

.ENDS HDSP_5538